US05763439
Preparation of 2-tert-butyl-4-cyano-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one (Compound No. 21)
Into a 30 ml of ethanol solution of 2.1 g of 2-tert-butyl-5-chloro-4-cyanopyridazin-3-(2H)-one and 1.0 g of triethylamine, 1.1 g of 4-picolylamine was dropwise added under cooling with ice over a period of 5 minutes. Then, the mixture was stirred at room temperature for two hours and then concentrated. The mixture was extracted with ethyl acetate, and the extract was washed twice with a saturated sodium chloride aqueous solution and then dried. Ethyl acetate was distilled off under reduced pressure, and the residue thereby obtained was subjected to column chromatography. Using an eluent (ethyl acetate:methanol=20:1), 2.5 g of the desired product (Compound No. 21) having a melting point of from 174 to 175° C., was obtained.

reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | 2-tert-butyl-5-chloro-4-cyanopyridazin-3-(2H)-one | 2.1 g | C(C)(C)(C)N1N=CC(=C(C1=O)C#N)Cl | C9H10ClN3O
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | 4-picolylamine | 1.1 g | N1=CC=C(C=C1)CN | C6H8N2
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-butyl-4-cyano-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one | 2.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)C#N)NCC1=CC=NC=C1 | C15H17N5O
